US08563565B2
(1) Synthesis of ethyl 5-(2,5-difluoro-4-(6-methoxy-2,4-dimethylpyridin-3-yl)phenyl)-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate
A mixture of ethyl 5-[2,5-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate synthesized in accordance with Example 53 (430 mg), 3-bromo-6-methoxy-2,4-dimethylpyridine obtained in Preparation Example 23 (223 mg), potassium hydrogen fluoride (254 mg), Pd(PPh3)4 (90 mg) and tripotassium phosphate n-hydrate (400 mg) in DME (8 mL) and water (2 mL) was heated under reflux at 110° C. for seven hours. The reaction mixture was cooled to room temperature and partitioned by adding ethyl acetate and brine. The organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated, and the residue was purified by NH silica gel column chromatography (ethyl acetate/n-heptane: 16% to 37% to 46%) and silica gel column chromatography (ethyl acetate/n-heptane: 28% to 49% to 54%) to give the title compound (144 mg). This compound was used for the next reaction without further purification.

reactant | ethyl 5-[2,5-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate | FC1=C(C=C(C(=C1)B1OC(C(O1)(C)C)(C)C)F)C1=C(C=NN1[C@@H]1COCC1)C(=O)OCC | C22H27BF2N2O5
reactant | 3-bromo-6-methoxy-2,4-dimethylpyridine | BrC=1C(=NC(=CC1C)OC)C | C8H10BrNO
reactant | potassium hydrogen fluoride | 254 mg | F.[K]
solvent | DME | 8 mL | COCCOC | C4H10O2
solvent | water | 2 mL | O | H2O
catalyst | Pd(PPh3)4 | 90 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 5-(2,5-difluoro-4-(6-methoxy-2,4-dimethylpyridin-3-yl)phenyl)-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate | 144 mg | FC1=C(C=C(C(=C1)C=1C(=NC(=CC1C)OC)C)F)C1=C(C=NN1[C@@H]1COCC1)C(=O)OCC | C24H25F2N3O4
